US07371748B2
(R)-Tetrahydro-furan-2-carboxylic acid [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-amide
Using 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine and (R)-tetrahydro-furan-2-carboxylic acid, the title compound was prepared in the same manner as described for N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-(tetrahydro-pyran-4-yl)-acetamide and obtained as off-white solid (62% yield). Mp 158-161° C., MS: m/e=363(M+H+).

reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
reactant | (R)-tetrahydro-furan-2-carboxylic acid | O1[C@H](CCC1)C(=O)O | C5H8O3
reactant | N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-(tetrahydro-pyran-4-yl)-acetamide | COC1=CC=C(C2=C1N=C(S2)NC(CC2CCOCC2)=O)C2CCOCC2 | C20H26N2O4S
product | (R)-Tetrahydro-furan-2-carboxylic acid [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)[C@@H]2OCCC2)C2CCOCC2 | C18H22N2O4S
